US04798832
0.81 g (1.85 mmoles) of [9-(4-acetyl-3-hydroxy-2-n-propylphenoxymethyl)-4-oxo-pyrido[1,2-a]pyrimidin-3-yl]acetic acid ethyl ester and 20 ml (5.00 mmoles) of a 1% aqueous solution of sodium hydroxide were mixed with and dissolved in 30 ml of ethanol, and this mixture was stirred at room temperature for 3 hours. The resulting reaction solution was diluted with an appropriate amount of water and then neutralized with dilute hydrochloric acid. The solid matter which separated out was collected by filtration, washed with water and then dried. This precipitate was recrystallized from acetonitrile to obtain 0.59 g (78% yield) of [9-(4-acetyl-3-hydroxy-2-n-propylphenoxymethyl)-4-oxo-pyrido[1,2-a]pyrimidin-3-yl]acetic acid in the form of white crystals. These crystals had a melting point of 239°-243° C.

reactant | [9-(4-acetyl-3-hydroxy-2-n-propylphenoxymethyl)-4-oxo-pyrido[1,2-a]pyrimidin-3-yl]acetic acid ethyl ester | 1.85 mmoles, 0.81 g | C(C)OC(CC1=CN=C2N(C1=O)C=CC=C2COC2=C(C(=C(C=C2)C(C)=O)O)CCC)=O | C24H26N2O6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | [9-(4-acetyl-3-hydroxy-2-n-propylphenoxymethyl)-4-oxo-pyrido[1,2-a]pyrimidin-3-yl]acetic acid | 0.59 g, 78% yield | C(C)(=O)C1=C(C(=C(OCC2=CC=CN3C2=NC=C(C3=O)CC(=O)O)C=C1)CCC)O | C22H22N2O6
